US08304419B2
Step C: Methyl 3-bromo-6-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1H-indole-2-carboxylate
NBS (0.670 g, 3.77 mmol) was added to a solution of methyl 6-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1H-indole-2-carboxylate (1.15 g, 3.77 mmol) in DMF (6 mL) and stirred overnight. The reaction was partitioned between EtOAc and water. The organic layer was separated, dried over MgSO4, filtered and concentrated. The residue was adsorbed onto silica gel and purification was accomplished by silica gel column chromatography (EtOAc/hexanes) to afford the title compound (0.246 g, 17%). 1H NMR (400 MHz, CDCl3): δ ppm 9.31 (br. s., 1H), 7.48 (d, 1H), 6.76-6.84 (m, 2H), 3.98 (s, 3H), 0.99 (s, 9H), 0.21 (s, 6H).

reactant | NBS | 3.77 mmol, 0.670 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | methyl 6-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1H-indole-2-carboxylate | 3.77 mmol, 1.15 g | CC(C)(C)[Si](OC1=CC=C2C=C(NC2=C1)C(=O)OC)(C)C | C16H23NO3Si
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 3-bromo-6-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1H-indole-2-carboxylate | 0.246 g, 17% | BrC1=C(NC2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)C(=O)OC | C16H22BrNO3Si
